US07655666B2
2-Amino-5-[2-(2-methoxy-ethyl)-2H-pyrazol-3-yl]-4-trifluoromethyl-benzoic acid methyl ester
2-Acetylamino-5-[2-(2-methoxy-ethyl)-2H-pyrazol-3-yl]-4-trifluoromethyl-benzoic acid methyl ester (352 mg, 0.913 mmol) was treated with MeOH containing 10% of concd H2SO4 (10 mL) and the resultant solution was stirred at 70° C. for 2 h. The solvents were removed in vacuo and the residue was dissolved into water. The pH was adjusted to 10-11 by addition of 2N aq NaOH. The aqueous phase was extracted with AcOEt (2×). The organic phases were combined, dried (Na2SO4) and concentrated in vacuo to afford the title compound (238 mg, 76%). ES-MS: m/z 344.3 [M+H]+, rt 5.52 min.

reactant | 2-Acetylamino-5-[2-(2-methoxy-ethyl)-2H-pyrazol-3-yl]-4-trifluoromethyl-benzoic acid methyl ester | 0.913 mmol, 352 mg | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)CCOC)C(F)(F)F)NC(C)=O)=O | C17H18F3N3O4
reactant | H2SO4 | 10 mL | OS(=O)(=O)O | H2O4S
solvent | MeOH | CO | CH4O
product | 2-Amino-5-[2-(2-methoxy-ethyl)-2H-pyrazol-3-yl]-4-trifluoromethyl-benzoic acid methyl ester | 238 mg, 76% | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)CCOC)C(F)(F)F)N)=O | C15H16F3N3O3
